US05075299
5-p-Methoxybenzyloxy-2-chloromethyl-4-pyrone
5-p-Methoxybenzyloxy-2-hydroxymethyl-4-pyrone, 24 g, was dissolved in 120 ml of dry tetrahydrofuran. The solution was cooled to 5° C. and 15 ml of thionyl chloride was dropwise added to the solution over 30 minutes. The reaction solution was stirred at the same temperature for 3 hours. After completion of the reaction, the reaction liquid was concentrated to approximately 20 ml and the concentrate was added to 50 ml of water and 100 ml of dichloromethane. Under ice cooling, the pH was adjusted to 7.0 with saturated sodium hydrogencarbonate aqueous solution and the organic phase was washed with 20 ml of water. After drying over anhydrous magnesium sulfate, the organic phase was concentrated under reduced pressure and crystallized with ethyl acetate-ether. The formed crystals were taken out by filtration and dried under reduced pressure to give 20 g of the title compound.

reactant | 5-p-Methoxybenzyloxy-2-hydroxymethyl-4-pyrone | COC1=CC=C(COC=2C(C=C(OC2)CO)=O)C=C1 | C14H14O5
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 5-p-Methoxybenzyloxy-2-chloromethyl-4-pyrone | 20 g | COC1=CC=C(COC=2C(C=C(OC2)CCl)=O)C=C1 | C14H13ClO4
